US08431604B2
3.00 g (13.82 mmol) 2-bromo-4′-fluoroacetophenone, 2.80 g (27.64 mmol) acetylguanidine and 15 ml acetonitrile were combined and were together brought to reaction in the microwave (at 100 Watt) for 60 minutes at 40° C. by “heating by cooling”. After cooling, the solid formed was filtered off of the solvent. In addition, a total amount of 1.02 g N-[4-(4-fluorphenyl)-1H-imidazole-2-yl]acetamide were isolated by fractional crystallization with ethanol of the remainder of the mother liquor.

reactant | 2-bromo-4′-fluoroacetophenone | 13.82 mmol, 3.00 g | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
reactant | acetylguanidine | 27.64 mmol, 2.80 g | C(C)(=O)NC(=N)N | C3H7N3O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | N-[4-(4-fluorphenyl)-1H-imidazole-2-yl]acetamide | 1.02 g | FC1=CC=C(C=C1)C=1N=C(NC1)NC(C)=O | C11H10FN3O
